US08476280B2
n-Butyllithium (1.61 mL of 1.92 M solution; 3.10 mmol) was added to a mixture of N-(3-fluorophenyl)-3-iodo-N-methylbenzamide (1.0 g; 2.82 mmol) and 4-[3-(tert-butyl-dimethyl-silanyloxy)benzoyl]-piperidine-1-carboxylic acid tert-butyl ester (1.182 g; 2.82 mmol) in THF (150 mL) at −78° C. under nitrogen in one portion. The reaction was stirred under nitrogen overnight while the temperature warmed to room temperature. Saturated NH4Cl solution (25 mL) was added to the reaction mixture, followed by the addition of 25 mL of water. The mixture was extracted by ether (300 mL×2). The ether layer was washed by water (200 mL×2) and brine (200 mL×1), dried by Na2SO4 and concentrated to give 2.03 g of crude product, which was purified by silica gel column chromatography eluted with 30% EtOAc in pentane to give 4-([3-(tert-butyldimethylsilanyloxy)phenyl]{3-[N-(3-fluorophenyl)-N-methylcarbamoyl]phenyl}hydroxymethyl)piperidine-1-carboxylic acid tert-butyl ester (763 mg; 42%). 1H NMR (600 MHz, DMSO-d6) δ 7.34 (bs, 1H), 7.29 (s, 1H), 7.23-7.16 (m, 3H), 7.09 (m, 2H), 6.94 (m, 2H), 6.85 (m, 2H), 6.60 (d, 1H, J=7.0 Hz), 5.25 (s, 1H), 3.88 (m, 2H), 3.35 (s, 3H), 2.60 (bs, 2H), 2.34 (m, 1H), 1.37 (s, 9H), 1.36 (m, 2H), 1.16 (m, 2H), 0.91 (s, 9H), 0.12 (s, 6H).

reactant | n-Butyllithium | 3.10 mmol, 1.92 M, 1.61 mL | C(CCC)[Li]
reactant | N-(3-fluorophenyl)-3-iodo-N-methylbenzamide | 2.82 mmol, 1.0 g | FC=1C=C(C=CC1)N(C(C1=CC(=CC=C1)I)=O)C | C14H11FINO
reactant | 4-[3-(tert-butyl-dimethyl-silanyloxy)benzoyl]-piperidine-1-carboxylic acid tert-butyl ester | 2.82 mmol, 1.182 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(C1=CC(=CC=C1)O[Si](C)(C)C(C)(C)C)=O | C23H37NO4Si
reactant | NH4Cl | 25 mL | [NH4+].[Cl-]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | water | 25 mL | O | H2O
product | 4-([3-(tert-butyldimethylsilanyloxy)phenyl]{3-[N-(3-fluorophenyl)-N-methylcarbamoyl]phenyl}hydroxymethyl)piperidine-1-carboxylic acid tert-butyl ester | 763 mg, 42% | C(C)(C)(C)OC(=O)N1CCC(CC1)C(O)(C1=CC(=CC=C1)C(N(C)C1=CC(=CC=C1)F)=O)C1=CC(=CC=C1)O[Si](C)(C)C(C)(C)C | C37H49FN2O5Si
